US07790758B2
Intermediate 12 Enantiomer 1 Alternative Procedure: Trans-N-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropyl}-2-propanesulfonamide (Enantiomer 1)
N-[2-(4-bromophenyl)cyclopropyl]-2-propanesulfonamide (Enantiomer 1) (1.5 g, 4.7 mmol) was dissolved in 1,4-dioxane (50 ml). Potassium acetate (1.85 g, 18.8 mmol, 3 eq), 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride (192 mg, 0.23 mmol, 0.05 eq) and bis(pinacolato)diboron (1.43 g, 5.64 mmol, 1.2 eq) were added to the solution. The reaction mixture was heated at 90° C. for 5 hrs with stirring. After cooling, the solvent was evaporated under reduced pressure and the residue was dissolved in ethyl acetate and washed with water. The organic layer was separated, dried over Na2SO4 and concentrated. The crude product was purified by flash chromatography, eluting with cyclohexane/ethyl acetate 80:20, to give the title compound as a yellow oil (1.35 g, purity ˜50% according to NMR analysis, the main impurity being the bromide starting material).

reactant | N-[2-(4-bromophenyl)cyclopropyl]-2-propanesulfonamide | 4.7 mmol, 1.5 g | BrC1=CC=C(C=C1)C1C(C1)NS(=O)(=O)C(C)C | C12H16BrNO2S
reactant | Potassium acetate | 18.8 mmol, 1.85 g, 3 eq | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 5.64 mmol, 1.43 g, 1.2 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride | 0.23 mmol, 192 mg, 0.05 eq | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Trans-N-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropyl}-2-propanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)[C@H]1[C@@H](C1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
